Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
hematuria
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is a ___ year old male with PMH significant for 
metastatic colon ___ currently undergoing palliative 
chemotherapy with Erbitux + Irinotecan, HTN, HLD, and b/l 
ureteral stents who presents with 3 day history of hematuria, 
dysuria, and left flank pain. He reports that the dysuria 
started about 1 week ago and the hematuria started 3 days ago. 
At first it was pinkish urine which then progressed to frank 
blood.  
In the ED, initial vs were:4 97.9 90 137/75 16 96% RA Labs were 
remarkable for WBC 8.7, H/H 10.8/32.0, Lactate:1.1 UA showed 
moderate Leuk, large Blood, WBC 121, WBC >182, 100 protein, few 
bacteria. Urology saw patient in ED and recommended IV abx and 
did not think imaging was necessary at this time. Patient was 
given 1.5g IV Unasyn and IVF. Vitals on Transfer:0 97.4 77 
154/82 18 99% RA  
On the floor patient reports that he has dysuria, abdominal 
pain, and back pain. He reports the abdominal and back pain are 
chronic and are worse because he did not have his home pain 
medications. He has continued dyuria with low urine volumes and 
hematuria. He denies any fevers, chills, or night sweats.  
 
Review of sytems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies cough, shortness of breath. Denies chest pain 
or tightness, palpitations. Denies nausea, vomiting, diarrhea, 
constipation. Denies arthralgias or myalgias. Ten point review 
of systems is otherwise negative.  

 
Past Medical History:
PAST ONCOLOGIC HISTORY: 
- ___: screening colonoscopy: polyp in the cecum, polyp in the
transverse colon, polyp in the sigmoid colon; all of them were
resected at the time and the pathology report for all of them 
was
adenoma
- ___ colonoscopy: a single sessile 2.5-cm polyp of 
lobulated
appearance with significant vascularity was found in the sigmoid
colon.  A piece-meal polypectomy was performed and the polyp was
completely removed.  The pathology report ulcerated granulation
tissue and colonic mucosa with reactive changes consistent with
inflammatory pseudopolyp
___: CT scan of the abdomen showed sigmoid colon tumor with
large extraluminal component inseparable from the cecum and
several small bowel loops, bilateral pulmonary metastasis and an
undetermined lesion within the right lobe of the liver
- ___ colonoscopy showed a mass in the distal sigmoid
colon at 18 cm, another mass in the proximal sigmoid colon at 25
cm, a polyp in the hepatic flexure.  The pathology report showed
fragments of invasive adenocarcinoma moderately-to-poorly
differentiated with extensive necrosis in the mass at 25 cm. 
Regarding the mass at 18 cm, it showed invasive adenocarcinoma
moderately-to-poorly differentiated with lymphovascular space
involvement
- ___ CT CHEST: Multiple lung nodules consistent with
metastases. Some of which appear more prominent than on prior
study.
-___ left lower lobe VATS. Adenocarcinoma, consistent 
with
metastasis of colon cancer, positive for CK7, CK20, and CDX2 and
negative for ___ start chemotherapy with FOLFOX+Avastin
-___ CT torso after 2 cycles showed significant disease
response.
- ___ CT scan after 4 cycles showed stable disease
- ___ L subclavian and axillary vein thrombosis
- ___ the patient developed allergic reaction to the
infusion of Oxaliplatin, the ___ cycle was given with ___
alone.
- ___ start maintenance therapy with ___
- ___ CT torso stable disease
- ___ PET-CT showed a 2.5 cm central abdominal mass
similar in size to prior scan, highly FDG avid (SUV max 10.0)
- ___ CT abdomen stable disease
- ___ CT torso slight increase in size of the soft tissue
mass in the mesenteric root
- ___ palliative XRT to the pelvic mass
- ___  CT torso shows disease progression
- ___  start chemotherapy with FOLFIRI
- ___ CT torso shows stable disease
- ___ CT torso shows stable disease and new left
hydronephrosis
- ___ admission for small bowel obstruction
- ___ admission due to diarrhea
- ___ admission due to diarrhea, dehydration, ___,
partial SBO
- ___ CT torso: disease progression
--___ start Irinotecan+Cetuximab

OTHER PAST MEDICAL HISTORY:
-Hypertension 
-Hypercholesterolemia
-GERD
-Anxiety

 
Social History:
___
Family History:
His father died at age ___ of diabetes complications.  His mother 
is ___, alive and healthy. He has 12 siblings and he is not aware 
of any of them having cancer.

 
Physical Exam:
ADMISSION EXAM:
Vitals-99.3 147/70 76 18 100%RA  
General- Alert, orientedx3, in no acute distress  
HEENT- Sclera anicteric, MMM, oropharynx clear  
Neck- supple, JVP not elevated, no LAD  
Lungs- Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV- Regular rate and rhythm, normal S1, S2, no murmurs, rubs, 
gallops, left chest port c/d/i  
Abdomen- soft, mild tenderness over surgical scar, 
non-distended, bowel sounds present, no rebound tenderness or 
guarding,  
Back: left CVA tenderness  
GU- no foley  
Ext- warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro- CNs2-12 intact, motor function grossly normal  

Discharge Exam:
Vitals-  99.3/98.5  ___   ___   18   100%RA
General- Alert, oriented, no acute distress  
HEENT- Sclera anicteric, MMM, oropharynx clear
Neck- supple, JVP not elevated, no LAD  
Lungs- Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV- Regular rate and rhythm, normal S1 + S2, no 
murmurs/rubs/gallops  
Abdomen- soft, tender on deep palp, non-distended, bowel sounds 
present, no rebound tenderness or guarding, no organomegaly; 
notable arterial bruit bilaterally  
GU- no foley  
Ext- warm, well perfused, 2+ pulses, no clubbing/cyanosis/edema. 

Neuro- AAOx3. Follows commands.  Good attention.  CNs2-12 
intact, UE, ___ ___ strength.  No intention or resting tremors. 
No dysdiadochokinesis.
 
Pertinent Results:
Pertinant Labs:
___ 02:50PM BLOOD WBC-8.7 RBC-4.15* Hgb-10.8* Hct-32.0* 
MCV-77* MCH-26.1* MCHC-33.9 RDW-17.6* Plt ___
___ 02:50PM BLOOD Glucose-114* UreaN-14 Creat-1.2 Na-140 
K-3.9 Cl-102 HCO3-29 AnGap-13
___ 02:50PM BLOOD ALT-9 AST-13 CK(CPK)-30* TotBili-0.2
___ 02:50PM BLOOD Lipase-28

___ 07:00PM URINE RBC->182* WBC-121* Bacteri-FEW Yeast-NONE 
Epi-0

MICROBIOLOGY:
   URINE CULTURE (Final ___:    NO GROWTH. 

 
Brief Hospital Course:
Mr. ___ is a ___ year old male with PMH significant for 
metastatic colon cancer currently undergoing palliative 
chemotherapy with Erbitux + Irinotecan, HTN, HLD, and b/l 
ureteral stents who presents 1 week history of dysuria and 
pink-hued urine progressing to hematuria for the last 3 days, 
and associated right flank pain concerning for complicated 
UTI/pyelonephritis.  

# Urinary Tract Infection: patient presented with new hematuria 
(no signs of urinary obstruction) and positive UA.  Was treated 
initially with Zosyn though this was quickly transitioned to PO 
cipro.  Cultures did not grow bacteria, though may have been 
collected post abx so treated for a 7 day total course.
 
# Metastatic Colon Cancer: Postponed next cycle by a month ___ 
complaints of weight loss and dehydration.  He is currently on 
Cycle 2 of  Irinotecan + Cetuximab and is followed by Dr. 
___ seen on ___.  He was continued on his home 
pain medications.  

# Hypertension: Continued home medications-Amlodipine, 
Lisinopril, Metoprolol 

# GERD: Stable, continued Omeprazole 40 mg PO BID 
 
# HLD: continued Simvastatin 20 mg PO DAILY  

Transitional Issues:
-none
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amlodipine 10 mg PO DAILY 
2. Gabapentin 300 mg PO BID 
3. Lisinopril 40 mg PO DAILY 
4. Metoprolol Tartrate 25 mg PO BID 
5. Omeprazole 40 mg PO BID 
6. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
7. OxyCODONE SR (OxyconTIN) 40 mg PO Q12H 
8. Simvastatin 20 mg PO DAILY 

 
Discharge Medications:
1. Amlodipine 10 mg PO DAILY 
2. Gabapentin 300 mg PO BID 
3. Lisinopril 40 mg PO DAILY 
4. Metoprolol Tartrate 25 mg PO BID 
5. Omeprazole 40 mg PO BID 
6. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
7. OxyCODONE SR (OxyconTIN) 40 mg PO Q12H 
8. Simvastatin 20 mg PO DAILY 
9. Ciprofloxacin HCl 500 mg PO Q12H Duration: 7 Days 
RX *ciprofloxacin 500 mg 1 tablet(s) by mouth twice daily Disp 
#*13 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Urinary tract infection with hematuria

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___ you were admitted to the hospital with blood in your 
urine and treated for a urinary tract infection.  Your symptoms 
improved and you were discharged home to complete a 7 day course 
of antibiotics.  If your symptoms reoccur please contact your 
primary care doctor for evaluation.  You will see you urologist 
in a week's time.
 
Followup Instructions:
___